US08217043B2
a) Butyl-pyrrol-1-yl-carbamic acid tert-butyl ester
Prepared according to the N-alkylation condition used in Example 1 step b) from starting materials pyrrol-1-yl-carbamic acid tert-butyl ester (1.0 eq.), 1-iodobutane (2.0 eq.) and sodium hydride (1.3 eq.). 1H NMR (CDCl3, δ in ppm): 6.60 (m, 2H), 6.10 (m, 2H), 3.64 (t, 2H, J=7.0 Hz), 1.42 (s, 9H), 1.55-1.26 (m, 4H), 0.92 (t, 3H, J=7.0 Hz).

reactant | pyrrol-1-yl-carbamic acid tert-butyl ester | 1.0 eq. | C(C)(C)(C)OC(NN1C=CC=C1)=O | C9H14N2O2
reactant | 1-iodobutane | 2.0 eq. | ICCCC | C4H9I
reactant | sodium hydride | 1.3 eq. | [H-].[Na+]
product | Butyl-pyrrol-1-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(N1C=CC=C1)CCCC)=O | C13H22N2O2
